US06372777B1
Preparation of 2-Methyl-1-(3-nitrobenzyl)-5-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester
m-Nitrobenzylamine hydrochloride (3 g) was suspended in an aqueous solution of saturated sodium bicarbonate (30 mL), then extracted with chloroform. The organic layer was dried over MgSO4, the solids separated and solvents removed under vacuum to yield the free base. The m-nitrobenzylamine (5 mmol, 0.8 g) prepared above, 3-oxo-2-(2-oxo-2-phenyl-ethyl)-butyric acid ethyl ester (5 mmol, 1.2 g), and tosic acid (0.1 g) were combined in ethanol, then heated under reflux. The residue was resuspended in ethyl ether, and the benzylamine tosic acid salt was filtered from the mixture. The filtrate was concentrated under vacuum, and the resulting oil purified over silica to yield the named product, 1H-NMR (CDCl3, ppm): 1.24 t (3H), 2.36 s (3H), 4.07-4.30 q (2H), 5.11 s (2H), 6.58 s (1H), 6.98-7.44 bm (7H), 7.69 bs (1H) , 7.97 bd (1H).

reactant | m-Nitrobenzylamine hydrochloride | 3 g | Cl.[N+](=O)([O-])C=1C=C(CN)C=CC1
reactant | sodium bicarbonate | 30 mL | C([O-])(O)=O.[Na+]
reactant | m-nitrobenzylamine | 5 mmol, 0.8 g | [N+](=O)([O-])C=1C=C(CN)C=CC1 | C7H8N2O2
reactant | 3-oxo-2-(2-oxo-2-phenyl-ethyl)-butyric acid ethyl ester | 5 mmol, 1.2 g | C(C)OC(C(C(C)=O)CC(C1=CC=CC=C1)=O)=O | C14H16O4
reactant | tosic acid | 0.1 g | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
solvent | ethanol | C(C)O | C2H6O
solvent | ethyl ether | C(C)OCC | C4H10O
product | 2-Methyl-1-(3-nitrobenzyl)-5-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N(C(=C1)C1=CC=CC=C1)CC1=CC(=CC=C1)[N+](=O)[O-])C | C21H20N2O4
